US04191711
Chlorine gas was passed into a mixture of 115 g (0.5 mol) of p-chlorobenzotrichloride and 0.8 g (6 mmol) of aluminum chloride for 8.5 hours at 60° to 80° C. The mixture was then worked up by adding 200 ml of ice-cooled dilute hydrochloric acid to the reaction mixture, filtering off the solid constituents, separating off the organic phase from the filtrate, washing the organic phase five times with, in each case, 100 ml of water, then drying it over calcium chloride and subsequently distilling it over a packed column of 60 cm in length and having a silvered casing of glass. In this procedure, 100 g (75.6% of theory) of 3,4-dichlorobenzotrichloride (purity 99%) of boiling point 87° to 97° C./0.22 mm Hg were obtained. The purity and the structure of the product were unequivocally determined by a gas chromatogram and by a nuclear-magnetic resonance spectrum.

reactant | Chlorine | ClCl | Cl2
reactant | p-chlorobenzotrichloride | 0.5 mol, 115 g | ClC1=CC=C(C=C1)C(Cl)(Cl)Cl | C7H4Cl4
reactant | aluminum chloride | 6 mmol, 0.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
product | 3,4-dichlorobenzotrichloride | 100 g, 75.6% | ClC=1C=C(C=CC1Cl)C(Cl)(Cl)Cl | C7H3Cl5
